US04127582
A reaction vessel was charged with 43.4 g (0.2 mole) of 2,3,5,6-tetrachloropyridine, 108 g (1.2 mole) of methyl glycolate, and 26.6 g (0.25 mole) of anhydrous sodium carbonate. The resulting mixture was stirred and heated to 110° C. at atmospheric pressure with methanol distillate being removed, as it formed, through a distillation head. After 3.5 hours, 6.5 g of methanol distillate was collected. This distillate, along with 64.0 g of additional methanol was added to the reaction mixture and reflux was continued for 1 hour. The solution was cooled to room temperature and anhydrous hydrogen chloride was sparged in slowly, until the solution was acidic to thereby minimize hydrolysis. The solution was refluxed at 70° C. for two more hours, and volatiles were removed in a vacuum. One hundred and eighteen grams of methanol and methyl glycolate were recovered. Perchloroethylene (150 g) was used to extract the ester. After washing the resulting perchloroethylene solution with water and cooling to 20° C., crystals of the product precipitated. These crystals were filtered and dried to give 41.2 g (0.15 mole) of methyl 3,5,6-trichloro-2-pyridinyloxyacetate, m.p. 99°-103° C. The ester product was analyzed by gas-liquid chromatography and was shown to be about 98% pure. Further recrystallization from methanol gave the pure ester, m.p. 104.5°-106° C. In the filtrate from the original crystallization there was another 8.2 g (0.03 mole) of product, and therefore, the total amount of product was 49.4 g (0.18 mole), which represented a 90% yield based on the tetrachloropyridine.

reactant | 2,3,5,6-tetrachloropyridine | 0.2 mole, 43.4 g | ClC1=NC(=C(C=C1Cl)Cl)Cl | C5HCl4N
reactant | methyl glycolate | 1.2 mole, 108 g | C(CO)(=O)OC | C3H6O3
reactant | sodium carbonate | 0.25 mole, 26.6 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | methanol | CO | CH4O
product | methyl 3,5,6-trichloro-2-pyridinyloxyacetate | 0.15 mole, 41.2 g | ClC=1C(=NC(=C(C1)Cl)Cl)OCC(=O)OC | C8H6Cl3NO3
